US05232925
5-(4-[3-(N-Methyl-N-(2-benzoxazolyl)amino)propoxy]benzylidene)-2,4-thiazolidinedione
The title compound (m.p. 202°-204° C.) was prepared from 4-[3-(N-methyl-N-(2-benzoxazolyl)amino)propoxy]benzaldehyde (5.3 g) and 2,4-thiazolidinedione (2.2 g) by a similar procedure to that described in Example 4.

reactant | 4-[3-(N-methyl-N-(2-benzoxazolyl)amino)propoxy]benzaldehyde | 5.3 g | CN(C=1OC2=C(N1)C=CC=C2)CCCOC2=CC=C(C=O)C=C2 | C18H18N2O3
reactant | 2,4-thiazolidinedione | 2.2 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-(4-[3-(N-Methyl-N-(2-benzoxazolyl)amino)propoxy]benzylidene)-2,4-thiazolidinedione | CN(C=1OC2=C(N1)C=CC=C2)CCCOC2=CC=C(C=C1C(NC(S1)=O)=O)C=C2 | C21H19N3O4S
